US06881737B2
A mixture of 2,4-dichloro-1,3,5-triazine (4.0 g, 26.7 mmol) and solid K2CO3 (16.0 g, 116 mmol) was suspended in AcCN (50 mL) under nitrogen at 0° C. followed by addition of 3-chloroaniline (3.4 g, 26.7 mmol). The mixture was stirred at 0° C. for 0.5 h. The reaction was quenched by pouring onto ice/water. The white solid which formed was collected by suction filtration, dried under vacuum then purified by column chromatography (elution with CH2Cl2) to give (3-chlorophenyl)-(4-chloro-[1,3,5]triazin-2-yl)amine MS m/z=241. Calc'd for C9H6Cl2N4: 240.00.

reactant | 2,4-dichloro-1,3,5-triazine | 26.7 mmol, 4.0 g | ClC1=NC=NC(=N1)Cl | C3HCl2N3
reactant | K2CO3 | 116 mmol, 16.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-chloroaniline | 26.7 mmol, 3.4 g | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | AcCN | 50 mL | C(=O)(C)C#N | C3H3NO
product | (3-chlorophenyl)-(4-chloro-[1,3,5]triazin-2-yl)amine | ClC=1C=C(C=CC1)NC1=NC=NC(=N1)Cl | C9H6Cl2N4
